US04965257
n-Butyl lithium solution (0.67 ml, 1.6M in hexane) was added to a stirred solution of 4-ethyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane (200 mg) in tetrahydrofuran (5 ml) at 0° C. under nitrogen. The solution was maintained at 0° C. for 10 minutes when ethyl chloroformate (0.1 ml) was added neat. The solution was allowed to warm to room temperature over 1.5 hours. The reaction was quenched with water (1 ml) and the solvent was removed under vacuum. The residue was taken up in ether and washed with water and brine. The ethereal solution was dried over anhydrous magnesium sulphate and then evaporated in vacuo. The residue was extracted with boiling hexane and afforded ethyl 3-[4-(4-ethyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]prop-2-ynoate (67 mg) as an off-white crystalline solid on cooling.

reactant | n-Butyl lithium | 1.6M, 0.67 ml | C(CCC)[Li]
reactant | 4-ethyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane | 200 mg | C(C)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#C | C15H16O3
reactant | ethyl chloroformate | 0.1 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ethyl 3-[4-(4-ethyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]prop-2-ynoate | 67 mg | C(C)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#CC(=O)OCC | C18H20O5
